US05034381
A mixture of 2-chloroadenosine (15.05 g) and 2-cyclohexylethylamine (31.75 g) is stirred under nitrogen at 140° over 6 hours. The reaction mixture is cooled to room temperature, diluted with ethanol (500 ml), propylene oxide (50 ml) is added and the mixture is stirred at room temperature for 3 hours. The solid is collected by vacuum filtration, washed with ethanol, then ether, and dried at 80°/0.1 mm over 16 hours. The white solid obtained is recrystallized from ethanol to yield 2-(2-cyclohexylethylamino)-adenosine, the compound of example 4q, m.p. 142°-145°, [alpha]D25 -30.5° (c=1, dimethyl sulfoxide).

reactant | 2-chloroadenosine | 15.05 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
reactant | 2-cyclohexylethylamine | 31.75 g | C1(CCCCC1)CCN | C8H17N
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | propylene oxide | 50 ml | C1C(C)O1 | C3H6O
product | 2-(2-cyclohexylethylamino)-adenosine | C1(CCCCC1)CCNC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C18H28N6O4
